US09326516B2
1-(2-Hydroxy-1-(p-tolyl)ethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C7)
The title compound was prepared with 2-amino-2-(p-tolyl)ethanol and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an off-white solid (0.300 g, 71%): mp 145-156° C.; 1H NMR (400 MHz, CD3OD) δ 9.13 (s, 1H), 8.12 (d, J=6.8 Hz, 2H), 8.05 (d, J=2.2 Hz, 2H), 7.65 (d, J=7.4 Hz, 2H), 7.51 (d, J=8.2 Hz, 2H), 7.24-7.23 (m, 2H), 7.18-7.16 (m, 2H), 5.60 (s, 1H), 3.90-3.84 (m, 2H), 2.34 (s, 3H) (NH, OH not observed); ESIMS m/z 514 ([M+H]+).

reactant | 2-amino-2-(p-tolyl)ethanol | NC(CO)C1=CC=C(C=C1)C | C9H13NO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | 1-(2-Hydroxy-1-(p-tolyl)ethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OCC(C1=CC=C(C=C1)C)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C25H22F3N5O2S
